US07723329B2
A solution of toluene-4-sulfonic acid 2-[1-(3-chloro-benzyl)-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester (0.344 g, 0.532 mmol) in 2.0 M dimethylamine in THF (8.0 mL, 16.0 mmol) was stirred at 70° C. in a sealed tube for 2 hours. After cooling to ambient temperature, the reaction mixture was solvent evaporated. It was partitioned with ethyl acetate and aqueous sodium bicarbonate. The organic phase was washed with brine, dried with anhydrous magnesium sulfate, filtered and concentrated. Drying at 80° C. in vacuo for 20 minutes gave {2-[1-(3-chloro-benzyl)-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl}-dimethyl-amine as a dark yellow gum (0.261 g, 94.6%). This was dissolved in chloroform, and ethereal hydrochloride was added. The mixture was concentrated and dried in vacuo at 82° C. for 14 hours. The result was the hydrochloride as a light orange foam (0.252 g); Mass Spectrum (+EI, [M+H]+) m/z 520. 1HNMR (500 MHz, DMSO-d6): δ9.92-9.94 (br, s, 1H), 8.73-8.75 (m, 1H), 8.56 (dd, 1H, J=7.32 Hz and 1.10 Hz), 8.27 (d, 1H, J=8.29 Hz), 8.02-8.05 (m, 1H), 7.82 (d, 1H, J=9.15 Hz), 7.70-7.74 (m, 1H), 7.58-7.64 (m, 2H), 7.31 (d, 1H, J=2.32 Hz), 7.15-7.27 (m, 3H), 7.04 (d, 1H, J=7.68 Hz), 5.73 (s, 2H), 4.34-4.37 (m, 2H), 3.47-3.49 (m, 2H), 2.81 ppm (s, 6H).

reactant | toluene-4-sulfonic acid 2-[1-(3-chloro-benzyl)-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester | 0.532 mmol, 0.344 g | ClC=1C=C(CN2N=C(C3=CC(=CC=C23)OCCOS(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | C33H27ClN2O6S2
reactant | THF | 16.0 mmol, 8.0 mL | C1CCOC1 | C4H8O
reactant | dimethylamine | 2.0 M | CNC | C2H7N
product | {2-[1-(3-chloro-benzyl)-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl}-dimethyl-amine | 0.261 g, 94.6% | ClC=1C=C(CN2N=C(C3=CC(=CC=C23)OCCN(C)C)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | C28H26ClN3O3S
